US05597845
(S)-N-Benzyl-N-methyl-2-[[(S)-2-[(1H-indol-3-yl)-1-carboxymethyl]-ethylamino]-N'-(t-butoxycarbonyl)-ethylamino]-3-phenyl-propionamide
Combine (S)-N-benzyl-N-methyl-2-[N'-(t-butoxycarbonyl)-2-oxo-ethylamino]-3-phenyl-propionamide (4.87 g, 11.87 mmol) and (S)-2-(1H-indol-3-yl)-1-carboxymethyl-ethylamine hydrochloride salt ((S)-tryptophan methyl ester hydrochloride salt) (3.02 g, 11.86 mmol) in methanol (120 mL). Add dropwise, a solution of sodium cyanoborohydride (9.5 mL, 1M in THF, 9.5 mmol) and stir under an inert atmosphere for 48 hours. Concentrate in vacuo to obtain a residue. Dilute the residue with ethyl acetate and extract with water. Separate the layers, dry the organic layer over MgSO4, filter, and evaporate in vacuo to give a residue. Chromatograph the residue on silica gel eluting with 3% methanol/dichloromethane to give the title compound: TLC Rf =0.57 (silica gel, 10% methanol/dichloromethane).

reactant | (S)-N-benzyl-N-methyl-2-[N'-(t-butoxycarbonyl)-2-oxo-ethylamino]-3-phenyl-propionamide | 11.87 mmol, 4.87 g | C(C1=CC=CC=C1)N(C([C@H](CC1=CC=CC=C1)N(C(=O)OC(C)(C)C)CC=O)=O)C | C24H30N2O4
reactant | (S)-2-(1H-indol-3-yl)-1-carboxymethyl-ethylamine hydrochloride salt | 11.86 mmol, 3.02 g | Cl.N1C=C(C2=CC=CC=C12)C[C@@H](CC(=O)O)N
reactant | sodium cyanoborohydride | 9.5 mmol, 1M, 9.5 mL | C(#N)[BH3-].[Na+]
reactant | methanol dichloromethane | CO.ClCCl
reactant | methanol | 120 mL | CO | CH4O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | (S)-N-Benzyl-N-methyl-2-[[(S)-2-[(1H-indol-3-yl)-1-carboxymethyl]-ethylamino]-N'-(t-butoxycarbonyl)-ethylamino]-3-phenyl-propionamide | C(C1=CC=CC=C1)N(C([C@H](CC1=CC=CC=C1)N(C(=O)OC(C)(C)C)CCNCC[C@H](C(=O)O)C1=CNC2=CC=CC=C12)=O)C | C36H44N4O5
